US04542142
A solution of 18.5 g of (S)α-cyano-3-phenoxy-benzyl (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-hydroxy-1-propenyl]-cyclopropane-carboxylate, 50 ml of methylene chloride and 50 ml of thionyl chloride was stirred at 20° to 25° C. for 2 hours and was then evaporated to dryness. The residue was admixed with 1.38 g of paraformaldehyde and 0.15 g of zinc chloride and the suspension was heated at 70° C. for 21/2 hours. After treatment, the product was chromatographed over silica gel and eluted with an 8-2 hexane-ethyl acetate mixture to obtain (S)α-cyano-3-phenoxy-benzyl (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-chloromethoxy-1-propenyl]-cyclopropane-carboxylate.

reactant | (S)α-cyano-3-phenoxy-benzyl (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-hydroxy-1-propenyl]-cyclopropane-carboxylate | 18.5 g | CC1([C@@H]([C@@H]1\C=C/C(O)=O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H21NO5
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-chloromethoxy-1-propenyl]-cyclopropane-carboxylate | CC1([C@@H]([C@@H]1\C=C/C(OCCl)=O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C24H22ClNO5
